US08097610B2
To a mixture of 2-amino-5-phenylthiazole described in Journal of Medicinal Chemistry, 1983, Vol. 26 (8), 1158-1163, (1.00 g; 5.67 mmol), copper (II) chloride dihydrate (1.94 g; 11.3 mmol), concentrated hydrochloric acid (8 ml) and acetic acid (8 ml) was added sodium nitrite (0.47 g; 6.80 mmol) under ice-cooling. The mixture was stirred at 40° C. for 1 hour. After returning the reaction solution to room temperature, water and chloroform were added and extracted. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel (methylene chloride) to give 2-chloro-5-phenylthiazole as pale yellow crystal (0.68 g; 62%).

reactant | 2-amino-5-phenylthiazole | NC=1SC(=CN1)C1=CC=CC=C1 | C9H8N2S
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 6.80 mmol, 0.47 g | N(=O)[O-].[Na+]
catalyst | copper (II) chloride dihydrate | 5.67 mmol, 1.00 g | O.O.[Cu](Cl)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-chloro-5-phenylthiazole | ClC=1SC(=CN1)C1=CC=CC=C1 | C9H6ClNS
